US05025005
(i) 1-Octadecyloxy-2-phthalimido-3-phenoxycarbonyloxypropane
3-Octadecyloxy-2-phthalimidopropan-1-ol used as the starting material was synthesized by reacting 3-octadecyloxy-2-aminopropane-1-ol as produced in Example 18-(i) with carboethoxyphthalimide.

reactant | 3-Octadecyloxy-2-phthalimidopropan-1-ol | C(CCCCCCCCCCCCCCCCC)OCC(CO)N1C(C=2C(C1=O)=CC=CC2)=O | C29H47NO4
reactant | 3-octadecyloxy-2-aminopropane-1-ol | C(CCCCCCCCCCCCCCCCC)OCC(CO)N | C21H45NO2
reactant | carboethoxyphthalimide | C(=O)(OCC)C1=C2C(C(=O)NC2=O)=CC=C1 | C11H9NO4
product | 1-Octadecyloxy-2-phthalimido-3-phenoxycarbonyloxypropane | C(CCCCCCCCCCCCCCCCC)OCC(COC(=O)OC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C36H51NO6
